US07544699B2
A solution of (2S)-(2-amino-5-chloro-benzoylamino)-3-(2′-phenoxy-biphenyl-4-yl)-propionic acid (0.154 g, 0.307 mmol), prepared by reacting (2S)-amino-3-(2′-phenoxy-biphenyl-4-yl)-propionic acid methyl ester and 2-amino-5-chlorobenzoic acid by the general procedure A) was reacted with 4-(methylthio)phenylboronic acid (0.130 g, 0.768 mmol), copper acetate (0.084 g, 0.460 mmol), and triethyl amine (0.215 mL, 1.535 mmol) by the general procedure G. The crude product was purified by flash column chromatography on silica gel using DCM containing 25% hexane to give 0.075 g of 2-[5-chloro-2-(4-methylsulfanyl-phenylamino)-benzoylamino]-3-(2′-phenoxy-biphenyl-4-yl)-propionic acid methyl ester as an oil. This ester was treated with LiOH (0.019 g, 0.441 mmol) by the general procedure I to give 0.049 g of 2-[5-chloro-2-(4-methylsulfanyl-phenylamino)-benzoylamino]-3-(2′-phenoxy-biphenyl-4-yl)-propionic acid.

reactant | (2S)-(2-amino-5-chloro-benzoylamino)-3-(2′-phenoxy-biphenyl-4-yl)-propionic acid | 0.307 mmol, 0.154 g | NC1=C(C(=O)N[C@H](C(=O)O)CC2=CC=C(C=C2)C2=C(C=CC=C2)OC2=CC=CC=C2)C=C(C=C1)Cl | C28H23ClN2O4
reactant | (2S)-amino-3-(2′-phenoxy-biphenyl-4-yl)-propionic acid methyl ester | COC([C@H](CC1=CC=C(C=C1)C1=C(C=CC=C1)OC1=CC=CC=C1)N)=O | C22H21NO3
reactant | 2-amino-5-chlorobenzoic acid | NC1=C(C(=O)O)C=C(C=C1)Cl | C7H6ClNO2
reactant | 4-(methylthio)phenylboronic acid | 0.768 mmol, 0.130 g | CSC1=CC=C(C=C1)B(O)O | C7H9BO2S
reactant | triethyl amine | 1.535 mmol, 0.215 mL | C(C)N(CC)CC | C6H15N
catalyst | copper acetate | 0.460 mmol, 0.084 g | C(C)(=O)[O-].[Cu+2].C(C)(=O)[O-]
product | 2-[5-chloro-2-(4-methylsulfanyl-phenylamino)-benzoylamino]-3-(2′-phenoxy-biphenyl-4-yl)-propionic acid methyl ester | 0.075 g | COC(C(CC1=CC=C(C=C1)C1=C(C=CC=C1)OC1=CC=CC=C1)NC(C1=C(C=CC(=C1)Cl)NC1=CC=C(C=C1)SC)=O)=O | C36H31ClN2O4S
